US04241079
A mixture of 1-imino-(4-nitro)phenylmethyl-2-(3-carbomethoxythioureido)-4-propylthiobenzene (4.3 g; 0.01 mole) acetone (50 ml), water (25 ml) and 50% aqueous sodium hydroxide (0.8 g; 0.01 mole) is stirred at room temperature for 15 min. and is cooled to 12° C. To the mixture there is added methyl iodide (1.4 g; 0.01 mole) and it is stirred at 13° C. to 20° C. for 2 hrs. The suspension that forms is vacuum filtered and the filter cake is washed with acetone and dried to afford 1-imino(4-nitro)phenylmethyl-2-(3-carbomethoxy-S-methylisothioureido)-4-propylthiobenzene (3.5 g; 78%), m.p. 135°-137° C. dec.

reactant | 1-imino-(4-nitro)phenylmethyl-2-(3-carbomethoxythioureido)-4-propylthiobenzene | 0.01 mole, 4.3 g | N=C1C(=C(C(C=C1)(SCCC)[N+](=O)[O-])CC1=CC=CC=C1)NC(=S)NC(=O)OC | C19H22N4O4S2
reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | sodium hydroxide | 0.01 mole, 0.8 g | [OH-].[Na+]
reactant | methyl iodide | 0.01 mole, 1.4 g | CI | CH3I
solvent | water | 25 ml | O | H2O
product | 1-imino(4-nitro)phenylmethyl-2-(3-carbomethoxy-S-methylisothioureido)-4-propylthiobenzene | 3.5 g, 78% | N=C1C(=C(C(C=C1)(SCCC)[N+](=O)[O-])CC1=CC=CC=C1)NC(SC)=NC(=O)OC | C20H24N4O4S2
